US04970217
A suspension of 3.8 g of 3-p-methoxyphenyl-5-(4-benzyl-piperidino-methyl)-oxazolidin-2-one in 50 ml of 1,2-dichloroethane is added dropwise to a boiling solution of 15.6 g of dimethyl sulfide/boron tribromide complex in 50 ml of 1,2-dichloroethane; the mixture is boiled for another 30 minutes and worked up in a conventional manner to give 3-p-hydroxyphenyl-5-(4-benzyl-piperidino-methyl)-oxazolidin-2-one.

reactant | 3-p-methoxyphenyl-5-(4-benzyl-piperidino-methyl)-oxazolidin-2-one | 3.8 g | COC1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)CC1=CC=CC=C1)=O | C23H28N2O3
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 3-p-hydroxyphenyl-5-(4-benzyl-piperidino-methyl)-oxazolidin-2-one | OC1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)CC1=CC=CC=C1)=O | C22H26N2O3
